US06642229B2
3,3-Dimethylbutan-2-one was converted to 1,1-diethoxy-4,4-dimethylpentan-3-one as described in Example 4 and condensed with 2-aminoimidazole hemisulfate as described in Example 1 to give 7-tert-butylimidazo[1,2-a]pyrimidine as a pale-orange solid: δH (400 MHz, CDCl3) 1.42 (9H, s), 6.96 (1H, d, J 7), 7.45 (1H, d, J 1), 7.72 (1H, d, J 1), 8.33 (1H, d, J 7).

reactant | 3,3-Dimethylbutan-2-one | CC(C(C)=O)(C)C | C6H12O
reactant | 1,1-diethoxy-4,4-dimethylpentan-3-one | C(C)OC(CC(C(C)(C)C)=O)OCC | C11H22O3
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 7-tert-butylimidazo[1,2-a]pyrimidine | C(C)(C)(C)C1=NC=2N(C=C1)C=CN2 | C10H13N3
